US07074819B2
Step 2) Synthesis of 9-(t-butyldimethylsilyloxy)-6-oxa-1-nonyne
To a solution of 4-pentyn-1-ol (2.1 g, 26.1 mmol) in dry N,N-dimetylformamide (100 ml) was added sodium hydride (1.04 g, 60% in oil, 26.1 mmol) at room temperature. The mixture was stirred for 40 minutes, and 1-bromo-3-(t-butyldimethylsilyloxy) propane (4.4 g, 17.4 mmol) was added thereto. The mixture was stirred at room temperature for 2 hours. After the reaction was completed, water was added thereto. The resulting mixture was extracted with ethyl acetate. The organic layer was washed with saturated saline solution, dried over anhydrous sodium sulfate, and filtered. The organic solvent was removed under reduced pressure to give a crude product. This crude product thus obtained was subjected to silica gel column chromatography (n-hexane:ethyl acetate=20:1) to give the title compound (920 mg, yield: 21%).

reactant | 4-pentyn-1-ol | 26.1 mmol, 2.1 g | C(CCC#C)O | C5H8O
reactant | sodium hydride | 26.1 mmol, 1.04 g | [H-].[Na+]
reactant | 1-bromo-3-(t-butyldimethylsilyloxy) propane | 17.4 mmol, 4.4 g | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
reactant | water | O | H2O
solvent | N,N-dimetylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | 9-(t-butyldimethylsilyloxy)-6-oxa-1-nonyne | 920 mg, yield: 21% | [Si](C)(C)(C(C)(C)C)OCCCOCCCC#C | C14H28O2Si
